Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
FEVER
 
Major Surgical or Invasive Procedure:
NONE during this admission, start date ___ s/p EXCISION URETHRAL MASS, CYSTOSCOPY 

 
History of Present Illness:
Patient is a ___ female with a history of urethral adenocarcinoma 
s/p distal urethrectomy on ___ by ___ at ___ who 
presented OSH (___) with a fever to 104. She was discharged 
yesterday afternoon after an uncomplicated course. She had an 
uncomfortable ride home to the ___ which she attributed
to post-surgical perineal pain. When she got home she wasn't 
feeling well and took her temperature which was 104. She called 
an ambulance and went to the local ___. She was 
found to have a lactate of 3 and received 3 liters of fluid and 
dose of vanco and cefepime. She was transferred to ___ for
further evaluation.

Urology was consulted for evaluation of postoperative fever in a 
patient POD 2 from recent surgery. She endorses fever with 
headache (HA resolved with resolution of fever), chills, and 
nausea. Denies vomiting, abdominal pain, flank pain, worsening 
perineal pain, increased bloody drainage from vagina, cough, 
pleuritic chest pain, dyspnea. She is passing gas but has not 
had
a BM since surgery. No sick contacts.    
 
Past Medical History:
 Past Medical History:  
 1. Hypertension.  
 2. Hyperlipidemia.  
 3. Anxiety.  
 4. Hypothyroidism.  
 5. Asthma.  
 6. Allergic rhinitis.  
 7. Hyperparathyroidism.  
 8. Hypercalcemia.  
 Past Surgical History: She has had multiple abdominal 
surgeries, including the removal of a viable fetus from her 
uterus, removal  of an endometrial lesion from her ovary and 
then a total abdominal hysterectomy and bilateral 
salpingo-oophorectomy for fibroids and endometriosis. She has 
also had a thyroidectomy for multinodular goiter and removal of 
a lipoma.  
 
 
Social History:
___
Family History:
Her father died of sarcoma and her brother has prostate cancer.
 
Physical Exam:
WDWN woman, nad, avss
abdomen soft, nt/nd
extremities w/out edema, pitting, pain
foley in place, secured to medial thigh

 
Pertinent Results:
___ 06:40AM BLOOD WBC-2.8* RBC-2.67* Hgb-8.5* Hct-25.0* 
MCV-94 MCH-31.8 MCHC-34.0 RDW-12.0 RDWSD-40.5 Plt Ct-96*
___ 06:48AM BLOOD WBC-2.2* RBC-2.81* Hgb-9.1* Hct-25.6* 
MCV-91 MCH-32.4* MCHC-35.5 RDW-11.9 RDWSD-39.9 Plt ___
___ 01:50AM BLOOD WBC-2.4* RBC-2.81* Hgb-9.0* Hct-26.7* 
MCV-95 MCH-32.0 MCHC-33.7 RDW-11.8 RDWSD-40.6 Plt ___
___ 01:50AM BLOOD Neuts-76.4* Lymphs-13.7* Monos-7.9 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-1.84 AbsLymp-0.33* 
AbsMono-0.19* AbsEos-0.02* AbsBaso-0.01

___ 06:40AM BLOOD Glucose-99 UreaN-8 Creat-0.6 Na-141 K-3.7 
Cl-107 HCO3-25 AnGap-13
___ 07:14PM BLOOD Glucose-91 UreaN-10 Creat-0.7 Na-139 
K-3.3 Cl-106 HCO3-25 AnGap-11
___ 06:48AM BLOOD Glucose-93 UreaN-10 Creat-0.8 Na-141 
K-2.8* Cl-106 HCO3-26 AnGap-12
___ 01:50AM BLOOD Glucose-108* UreaN-10 Creat-0.8 Na-138 
K-3.4 Cl-103 HCO3-26 AnGap-12

___ 01:50AM BLOOD ALT-21 AST-44* AlkPhos-47 TotBili-0.8
___ 01:50AM BLOOD ALT-21 AST-44* AlkPhos-47 TotBili-0.8
___ 01:50AM BLOOD Albumin-3.5
___ 01:56AM BLOOD Lactate-1.1

___ 04:30AM URINE Color-Yellow Appear-Clear Sp ___
___ 04:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

___ 05:00AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

___ URINE URINE CULTURE-FINAL EMERGENCY WARD 

___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD 

 
Brief Hospital Course:
Ms. ___ was readmitted ___ with fever to 104 at OSH. WBC 
2.4. Lactate 3->1 with 3 liters NS. CT chest/abd/pelv with no 
significant abnormality or fluid collection. Vanco, cefepime at 
OSH and transfer to ___. Stable in ED for admission to floors. 
HR mid-80s, SBP 100-110s.  She was monitored for sepsis while 
cultures were pending and subsequently discharged home with 
foley catheter in place and a plan to return for void trial in 
just over a week. She was given a course of antibiotics for 
likely urinary tract infection.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Nitrofurantoin (Macrodantin) 50 mg PO BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. LORazepam 0.5 mg PO Q8H:PRN anxiety 
5. Losartan Potassium 75 mg PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. Simvastatin 20 mg PO QPM 
8. Senna 8.6 mg PO DAILY 
9. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

10. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
11. Docusate Sodium 100 mg PO BID 
12. Albuterol Inhaler ___ PUFF IH Q6H:PRN Sob 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q24H 
RX *levofloxacin [Levaquin] 500 mg ONE tablet(s) by mouth daily 
Disp #*5 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Albuterol Inhaler ___ PUFF IH Q6H:PRN Sob  
4.  Docusate Sodium 100 mg PO BID  
5.  FLUoxetine 30 mg oral DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  LORazepam 0.5 mg PO Q8H:PRN anxiety  
9.  Losartan Potassium 75 mg PO DAILY  
10.  Omeprazole 40 mg PO DAILY  
11.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
12.  Senna 8.6 mg PO DAILY  
13.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever; unknown origin; likely urinary tract infection
urethral mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
Please also reference the additional handout provided at your 
first admission by your urologist with instructions and 
information about your surgery and post-operative plan of care.

-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
allow anyone that is outside of the urology team remove your 
Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener--it is NOT a laxative.

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

-___ the antibiotic prophylaxis as recommended until the 
foley catheter is removed. 

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision. 

-Do not lift anything heavier than a phone book and no sports, 
vigorous physical activity (including sexual).

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4. 
Replace Tylenol with narcotic pain medication. Max daily Tylenol 
dose is 4gm, note that narcotic pain medication also contains 
Tylenol (acetaminophen) 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops. Colace is a 
stool "softener"- it is NOT a laxative

-Resume all of your home medications, except hold NSAID 
(aspirin, and ibuprofen containing products such as advil & 
motrin) for ONE week or until you see your urologist in 
follow-up OR you are explicitly advised to resume sooner by your 
PCP, ___ or Cardiologist

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___